US08492378B2
methyl 4-amino-3-[(1-benzylpiperidin-4-yl)amino]benzoate
A mixture of methyl 3-[(1-benzylpiperidin-4-yl)amino]-4-nitrobenzoate (17.1 g, 46.3 mmol), 5% platinum carbon (5.13 g), tetrahydrofuran (115 mL) and methanol (115 mL) was stirred under a hydrogen atmosphere at room temperature overnight. The m reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=2/1) and recrystallized from diisopropyl ether/ethyl acetate to give the title compound (8.40 g, yield 53%) as pale-red crystals.

reactant | methyl 3-[(1-benzylpiperidin-4-yl)amino]-4-nitrobenzoate | 46.3 mmol, 17.1 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C20H23N3O4
reactant | tetrahydrofuran | 115 mL | O1CCCC1 | C4H8O
catalyst | platinum carbon | 5.13 g | [C].[Pt]
solvent | methanol | 115 mL | CO | CH4O
product | methyl 4-amino-3-[(1-benzylpiperidin-4-yl)amino]benzoate | 8.40 g, yield 53% | NC1=C(C=C(C(=O)OC)C=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C20H25N3O2
